US07652023B2
5-chloro-2-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-isothiocyanato-2-phenylethyl)pyridine (0.036 g, 0.083 mmol) in dichloroethane (1 mL) in a two drum vial was added phenylenediamine (12 mg, 0.108 mmol) and TEA (13 mL, 0.091 mmol). The reaction was heated at 80° C. for 2 hours. EDCI (24 mg, 0.124 mmol) was added and the reaction was continued to be heated at 80° C. overnight. The reaction was concentrated and the crude mixture was purified by ISCO chromatography (12 g column) using hexanes/EtOAc (0-40% over 25 min) to give N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-1H-benzo[d]imidazol-2-amine as a white solid (20 mg, 47% yield). LCMS: 3.2 min [M+1] 511.22 (4 min gradient, MeOH/H2O 0.1% TFA); 1H NMR (400 MHz, CD3OD) d ppm 4.01-4.10 (m, 1H), 4.51 (d, J=13.21 Hz, 1H), 6.48 (d, J=7.34 Hz, 2H), 6.93-7.04 (m, 5H), 7.22 (dd, J=5.50, 3.06 Hz, 2H), 7.34 (d, J=8.31 Hz, 1H), 7.51-7.58 (m, 1H), 7.71-7.77 (m, 2H), 7.82 (dd, J=8.56, 2.45 Hz, 1H), 8.41 (d, J=2.45 Hz, 1H).

reactant | 5-chloro-2-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-isothiocyanato-2-phenylethyl)pyridine | 0.083 mmol, 0.036 g | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(N=C=S)C1=CC(=CC(=C1)C(F)(F)F)F | C21H13ClF4N2S
reactant | phenylenediamine | 0.108 mmol, 12 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | EDCI | 0.124 mmol, 24 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
product | N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-1H-benzo[d]imidazol-2-amine | 20 mg, 47% yield | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)NC1=NC2=C(N1)C=CC=C2 | C27H19ClF4N4
